US05155113
Preparation of 5-chloro-4-(2-thenoyloxy)-2-pyridone
A 2.42 g quantity of 2-thenoyl chloride was added to a suspension of 2.00 g of 5-chloro-4-hydroxy-2-pyridone in 100 ml of pyridine, and the mixture was stirred at room temperature for 4.5 hours. The reaction mixture was concentrated and the concentrate was washed with ethyl acetate and water, thereby producing 0.82 g of the title compound in a yield of 23%.

reactant | 2-thenoyl chloride | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | 5-chloro-4-hydroxy-2-pyridone | 2.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-4-(2-thenoyloxy)-2-pyridone | 0.82 g, yield of 23% | ClC=1C(=CC(NC1)=O)OC(C1=CC=CS1)=O | C10H6ClNO3S
